US04661502
3-Dimethylcarbamoyloxypyridine (1.66 g) and chloromethylcyclopropanecarboxylate (2.70 g) were heated to 90° C. with stirring for 3 hrs. The reaction mixture was treated in a similar manner as described in Example 1 to give 2.77 g of 3-(dimethylcarbamoyloxy)-1-(cyclopropylcarbonyloxymethyl)pyridinium chloride as oil. The structure was determined by N.M.R.

reactant | 3-Dimethylcarbamoyloxypyridine | 1.66 g | CN(C(=O)OC=1C=NC=CC1)C | C8H10N2O2
reactant | chloromethylcyclopropanecarboxylate | 2.70 g | ClCOC(=O)C1CC1 | C5H7ClO2
product | 3-(dimethylcarbamoyloxy)-1-(cyclopropylcarbonyloxymethyl)pyridinium chloride | 2.77 g | [Cl-].CN(C(=O)OC=1C=[N+](C=CC1)COC(=O)C1CC1)C | InChI=1S/C13H17N2O4.ClH/c1-14(2)13(17)19-11-4-3-7-15(8-11)9-18-12(16)10-5-6-10;/h3-4,7-8,10H,5-6,9H2,1-2H3;1H/q+1;/p-1
